US07572805B2
Part B. (±)-trans 8-Ethyl-6-methyl-4-(2-(pyridin-3-yloxy)ethyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one dihydrochloride
To a solution of (±)-trans tert-butyl 8-ethyl-6-methyl-5-oxo-4-(2-(pyridin-3-yloxy)ethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate (20 mg, 0.044 mmol) in 4 mL of ether was added 1 mL of 12 N HCl. The reaction was stirred vigorously for 5 min and then was diluted with 5 mL of water. The reaction was washed with ethyl acetate twice to remove the triphenylphosphine impurity. The aqueous layer was concentrated in vacuo, taken up in water, filtered and lyophilized to afford 8 mg (44%) of the title compound of Example 89 as a light tan powder. 1H NMR (DMSO-D6): δ 9.96-9.90 (broad m, 3H), 8.71 (s, 1H), 8.31-8.26 (m, 1H), 8.03-7.98 (m, 1H), 7.69-7.63 (m, 1H), 6.99 (s, 1H), 6.83 (s, 1H), 4.28-4.23 (m, 1H), 4.20-4.15 (m, 1H), 4.07-4.00 (m, 1H), 3.90-3.84 3.82-3.70 (overlapping m, 2H), 3.55-3.49 (m, 1H), 3.46-3.39 (m, 1H), 3.33-3.26 (m, 1H), 3.21-3.14 (m, 1H), 2.50 (q, 2H, J=7.5 Hz), 2.46 (s, 3H), 1.08 (t, 3H, J=7.7 Hz). LRMS (ESI): 352.1 (M+H)+.

reactant | (±)-trans tert-butyl 8-ethyl-6-methyl-5-oxo-4-(2-(pyridin-3-yloxy)ethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | 0.044 mmol, 20 mg | C(C)C1=CC=2[C@H]3[C@H](N(C(C2C(=C1)C)=O)CCOC=1C=NC=CC1)CN(C3)C(=O)OC(C)(C)C | C26H33N3O4
reactant | HCl | 12 N, 1 mL | Cl | ClH
solvent | ether | 4 mL | CCOCC | C4H10O
solvent | water | 5 mL | O | H2O
product | (±)-trans 8-Ethyl-6-methyl-4-(2-(pyridin-3-yloxy)ethyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one dihydrochloride | 8 mg, 44% | Cl.Cl.C(C)C1=CC=2[C@H]3[C@H](N(C(C2C(=C1)C)=O)CCOC=1C=NC=CC1)CNC3 | InChI=1S/C21H25N3O2.2ClH/c1-3-15-9-14(2)20-17(10-15)18-12-23-13-19(18)24(21(20)25)7-8-26-16-5-4-6-22-11-16;;/h4-6,9-11,18-19,23H,3,7-8,12-13H2,1-2H3;2*1H/t18-,19+;;/m0../s1
